US05286741
Preparation of [3-Chloro-5-(p-chlorophenyl)-4-cyano-2-(trifluoromethyl)pyrrol-1-yl]methyl (dimethylphosphono)acetate
A solution of potassium (dimethylphosphono)acetate (0.69 g, 4 mmol) in N,N-dimethylformamide is treated with 1-(bromomethyl)-4-chloro-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile (0.79 g, 2 mmol), stirred at room temperature for one hour, diluted with water and extracted with ethyl acetate. The combined organic extracts are washed sequentially with water and brine, dried over anhydrous MgSO4 and concentrated in vacuo to obtain a brown oil. The oil is chromatographed using silica gel and a 1:1 hexanes/ethyl acetate mixture to give the title product as a viscous yellow oil (0.41 g) which is identified by 13C and 19FNMR spectral analyses.

reactant | potassium (dimethylphosphono)acetate | 4 mmol, 0.69 g | COP(=O)(OC)CC(=O)[O-].[K+]
reactant | 1-(bromomethyl)-4-chloro-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 2 mmol, 0.79 g | BrCN1C(=C(C(=C1C(F)(F)F)Cl)C#N)C1=CC=C(C=C1)Cl | C13H6BrCl2F3N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [3-Chloro-5-(p-chlorophenyl)-4-cyano-2-(trifluoromethyl)pyrrol-1-yl]methyl (dimethylphosphono)acetate | 0.41 g | COP(=O)(OC)CC(=O)OCN1C(=C(C(=C1C1=CC=C(C=C1)Cl)C#N)Cl)C(F)(F)F | C17H14Cl2F3N2O5P
